US06436923B1
D. 6-Methoxy-2-(methylethyl)-1-(4-hydroxybenzyl)-1,2,3,4-tetrahydroisoquinoline
A suspension of 6-methoxy-2-(methylethyl)-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline (0.3 g, 0.75 mmol), palladium (10% wt) on activated carbon (0.06 g) and acetic acid (5 drops) in ethyl acetate (10 mL) was stirred under hydrogen overnight. The reaction was filtered and concentrated to provide the title compound (0.212 g, 91% yield): ES-MS (m/z) 312 [M+H]+.

reactant | 6-methoxy-2-(methylethyl)-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline | 0.75 mmol, 0.3 g | COC=1C=C2CCN(C(C2=CC1)CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(C)C | C27H31NO2
catalyst | acetic acid | 5 drops | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium | [Pd] | Pd
product | 6-Methoxy-2-(methylethyl)-1-(4-hydroxybenzyl)-1,2,3,4-tetrahydroisoquinoline | 0.212 g, 91% yield | COC=1C=C2CCN(C(C2=CC1)CC1=CC=C(C=C1)O)C(C)C | C20H25NO2
